### PR TITLE
[Merged by Bors] - feat: properties of condExpKernel and condDistrib

### PR DESCRIPTION
**Pull request by RemyDegenne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/Condexp.lean [hunk 1]
```diff
@@ -117,6 +131,19 @@ theorem stronglyMeasurable_condExpKernel {s : Set Ω} (hs : MeasurableSet s) :
 @[deprecated (since := "2025-01-21")]
 alias stronglyMeasurable_condexpKernel := stronglyMeasurable_condExpKernel
 
+theorem _root_.MeasureTheory.StronglyMeasurable.integral_condExpKernel' [NormedSpace ℝ F]
+    (hf : StronglyMeasurable f) :
+    StronglyMeasurable[m ⊓ mΩ] (fun ω ↦ ∫ y, f y ∂condExpKernel μ m ω) := by
+  nontriviality Ω
+  simp_rw [condExpKernel_apply_eq_condDistrib]
+  refine StronglyMeasurable.integral_condDistrib (f := fun p ↦ f p.2) ?_
+  exact hf.comp_measurable measurable_snd
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/Condexp.lean:140]: You can also do this if you want.
```suggestion
  exact StronglyMeasurable.integral_condDistrib <| hf.comp_measurable measurable_snd
```

File: Mathlib/Probability/Kernel/Disintegration/Integral.lean [hunk 2]
```diff
@@ -184,6 +184,11 @@ section Integral
 variable {ρ : Measure (β × Ω)} [IsFiniteMeasure ρ]
   {E : Type*} {f : β × Ω → E} [NormedAddCommGroup E] [NormedSpace ℝ E]
 
+lemma _root_.MeasureTheory.StronglyMeasurable.integral_condKernel
+    (hf : StronglyMeasurable f) :
+    StronglyMeasurable (fun x ↦ ∫ y, f (x, y) ∂ρ.condKernel x) :=
+  hf.integral_kernel_prod_right'
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/Disintegration/Integral.lean:190]: Is this really needed? `integral_kernel_prod_right'` seems good enough to me, I'm not sure why we'd want this particular case as a separate lemma.

**Review by EtienneC30 — COMMENTED** [review]
Thanks! I'm not sure we need `StronglyMeasurable.integral_condKernel`, what do you think?

File: Mathlib/MeasureTheory/Measure/Trim.lean [hunk 3]
```diff
@@ -53,6 +53,11 @@ theorem le_trim (hm : m ≤ m0) : μ s ≤ μ.trim hm s := by
   simp_rw [Measure.trim]
   exact @le_toMeasure_apply _ m _ _ _
 
+lemma trim_eq_map (hm : m ≤ m0) : μ.trim hm = @Measure.map _ _ _ m id μ := by
+  refine @Measure.ext α m _ _ (fun s hs ↦ ?_)
+  rw [@Measure.map_apply _ _ _ m _ _ (measurable_id'' hm) _ hs, trim_measurableSet_eq hm hs,
+    Set.preimage_id]
```
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/Trim.lean]: I definitely did it because I thought I needed it... Perhaps it was needed before I filled in the other arguments, I don't know.
Anyway, removed.

File: Mathlib/Probability/Kernel/Disintegration/Integral.lean (hunk 2 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Kernel/Disintegration/Integral.lean]: You're right. Deleted.

**Comment by RemyDegenne** [comment]
Since the other PR that improved Measure.bind landed first, I added another lemma here: `condExpKernel_comp_trim`.

File: Mathlib/Probability/Kernel/Condexp.lean [hunk 4]
```diff
@@ -110,6 +111,11 @@ lemma compProd_trim_condExpKernel (hm : m ≤ mΩ) :
   simp only [Kernel.coe_comap, Function.comp_apply, id_eq]
   congr
 
+lemma condExpKernel_comp_trim (hm : m ≤ mΩ) : condExpKernel μ m ∘ₘ μ.trim hm = μ := by
+  rw [← Measure.snd_compProd, compProd_trim_condExpKernel, @Measure.snd_map_prod_mk]
+  · simp
+  · exact measurable_id'' hm
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/Condexp.lean:117]: You can also rewrite with `Measure.map_id` to avoid the simp, as you prefer.
```suggestion
   rw [← Measure.snd_compProd, compProd_trim_condExpKernel, @Measure.snd_map_prod_mk, Measure.map_id]
  exact measurable_id'' hm
```

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge
